US05536816
10.2 g (30 mmol) of N-(benzyloxycarbonyl)-L-tyrosine dihydrate, 6.48 g (30 mmol) of t-butyl (4-piperidinyloxy)acetate and 0.17 g (1.5 mmol) of N-hydroxysuccinimide were dissolved in 200 ml of ethyl acetate while stirring under argon. 6.5 g (31.5 mmol) of dicyclohexylcarbodiimide dissolved in 33 ml of ethyl acetate were added dropwise to the yellowish solution within 19 minutes. A suspension formed slowly and this was stirred at 22° for 22 hours. The precipitated dicyclohexylurea was filtered off and the filtrate was extracted with 1N hydrochloric acid, water and sodium chloride solution. The organic phase was dried over sodium sulphate and, after removing the drying agent, evaporated. 13.1 g of t-butyl [[1-[N-[(benzyloxy)carbonyl]-L-tyrosyl]-4-piperidinyl]oxy]acetate were obtained as a white, hard foam, the microanalysis of which corresponded to that of authentic material.

reactant | N-(benzyloxycarbonyl)-L-tyrosine dihydrate | 30 mmol, 10.2 g | O.O.C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O
reactant | t-butyl (4-piperidinyloxy)acetate | 30 mmol, 6.48 g | N1CCC(CC1)OCC(=O)OC(C)(C)C | C11H21NO3
reactant | dicyclohexylcarbodiimide | 31.5 mmol, 6.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 33 ml | C(C)(=O)OCC | C4H8O2
catalyst | N-hydroxysuccinimide | 1.5 mmol, 0.17 g | ON1C(CCC1=O)=O | C4H5NO3
product | t-butyl [[1-[N-[(benzyloxy)carbonyl]-L-tyrosyl]-4-piperidinyl]oxy]acetate | 13.1 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N1CCC(CC1)OCC(=O)OC(C)(C)C | C28H36N2O7
